US08809534B2
To a stirred solution of methyl 7-bromothieno[3,2-b]pyridine-2-carboxylate (200 mg, 0.74 mmol) in 8 ml of DMSO, were added CuBr (10 mg, 0.074 mmol), ethyl 2-cyclohexanonecarboxylate (26 mg, 0.15 mmol), cesium carbonate (500 mg, 1.54 mmol) and 4-aminophenol (96 mg, 0.88 mmol). The mixture was purged with nitrogen for 10 minutes, and then heated at 70° C. under N2 for 3 hours. The reaction was cooled to room temperature and poured into 100 ml of water. The precipitates were filtered, washed with water and dried to give the crude aniline intermediate as a pale green solid (˜140 mg). This crude material was dissolved in 10 ml of THF, and 2-fluoro-5-methylphenyl isocyanate (70 mg, 0.46 mmol) was added. The mixture was stirred at room temperature for 5 hours, and poured into 100 ml of water. The brown precipitates were filtered, washed with water and dried to give the crude product, which was purified by silica gel chromatography, eluting with 2-3% MeOH/CHCl3 to give methyl 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylate as light brown solid. Yield: 90 mg, 27%.

reactant | methyl 7-bromothieno[3,2-b]pyridine-2-carboxylate | 0.74 mmol, 200 mg | BrC1=C2C(=NC=C1)C=C(S2)C(=O)OC | C9H6BrNO2S
reactant | ethyl 2-cyclohexanonecarboxylate | 0.15 mmol, 26 mg | CCOC(=O)C1CCCCC1=O | C9H14O3
reactant | cesium carbonate | 1.54 mmol, 500 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-aminophenol | 0.88 mmol, 96 mg | NC1=CC=C(C=C1)O | C6H7NO
reactant | 2-fluoro-5-methylphenyl isocyanate | 0.46 mmol, 70 mg | FC1=C(C=C(C=C1)C)N=C=O | C8H6FNO
solvent | DMSO | 8 ml | CS(=O)C | C2H6OS
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | methyl 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylate | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)OC)C=C1 | C23H18FN3O4S
